US09024027B2
To a solution of (S)-4-(2-(2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)amino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (0.078 g, 0.086 mmol) in dry DCM (3 ml), 4M HCl in dioxane (0.103 ml, 0.412 mmol) was added, and the mixture was stirred for at room temperature overnight. Additional 4M HCl in dioxane (0.086 ml, 0.344 ml) was added, and the reaction was stirred at the same temperature for 72 hours. The mixture was washed with aqueous sat. NaHCO3; the organic phase was dried over sodium sulfate and the solvent was removed affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N-(2-(2-methoxyethylamino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide as a yellow solid (54.72 mg, 0.068 mmol, 79% yield, MS/ESI+ 801.13 [MH]+, [αD]=−20.82, c=0.512, MeOH). 1H NMR (300 MHz, DMSO-d6) δ ppm 8.43 (s, 2H), 7.98 (s, 1H), 7.96 (dd, 1H), 7.90 (dd, 1H), 7.19 (d, 1H), 7.09 (d, 1H), 6.97 (dd, 1H), 7.08 (t, 1H), 6.02 (dd, 1H), 4.43 (s, 2H), 3.91-4.02 (m, 2H), 3.86 (t, 2H), 3.39 (dd, 1H), 3.30 (t, 2H), 3.23 (dd, 1H), 3.19 (s, 3H), 3.13 (s, 3H), 2.56-2.67 (m, 4H), 1.05-1.38 (m, 1H), 0.48-0.69 (m, 2H), 0.27-0.48 (m, 2H).

reactant | (S)-4-(2-(2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)amino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.086 mmol, 0.078 g | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O)CCOC | C39H44Cl2F2N4O12S
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 0.086 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 0.412 mmol, 0.103 ml | O1CCOCC1 | C4H8O2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N-(2-(2-methoxyethylamino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 79% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)N(S(=O)(=O)C)CCNCCOC)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C34H36Cl2F2N4O10S
